Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ y/o M w/ active IV heroin use and hx of
endocarditis in ___ who initially presented to the ED with
primary complaint of right wrist pain after a fall.  While in 
the
___ ED he had a witnessed tonic-clonic seizure and was 
admitted
for further evaluation.

Mr. ___ tells me that he was in his usual state of health 
prior
to yesterday (the day of initial presentation).  He has been
using IV heroin regularly recently, injecting in his hands.  He
says that he used IV heroin on ___ and was feeling his 
usual
self.  On ___, he had decided that he wanted to quit using
heroin, so he took suboxone, 4 mg SL x1 (acquired from
friend/acquaintance, not prescribed to him), to attempt to
precipitate rapid detox.  He says that he has done this before
and was able to detox at home using this method.  His last
attempt doing this was ~9 months ago.  He says that for the 
first
hour he was doing OK, but then by the second hour he felt "25
times worse."  After the ___ hour, he says he started having
whole severe body muscle spasms, resulting in him being 
contorted
into various positions and making his breathing somewhat 
erratic.
He was getting worried, so he tried walking out of his bedroom 
to
tell his roommate, when he has a ___ second muscle
spasm/contortion and nearly fell. He then tried to make it to 
the
kitchen to get some fluids to drink, but had a ___ second 
episode
of spasm/contortion and fell, resulting in the right wrist 
injury
that led him to call EMS and present to our ED. Of note, he
denies any loss of consciousness during any of these episodes
while he was at home. Says he had many more of the body
contractions en route to the ED and while in the ED.

He reports he wants to quit heroin because he still has a career
that he is hoping to salvage and things to live for, that his
heroin use is ruining/getting in the way of. He says he was able
to be clean for ___ years, from ___. His last attempt at
sobriety was inpatient detox at ___ in 
___ about 2 months ago.  He says he isn't particularly interested
in trying either methadone or suboxone for opioid maintenance
therapy, but would be interested in "vivitrol."  Says his usual
symptoms of heroin withdrawal are watery eyes, shakes, yawning,
aches, nausea, vomiting, and diarrhea.

He endorses a history of endocarditis, says it was in ___ and
treated at ___. Says he has never had
cardiac surgery.  Denies recent fevers. Had chills when
withdrawing from heroin. Denies HA, neck stiffness, cough, SOB,
dysuria, or rash.

He does not recall anything regarding the reported generalized
tonic-clonic seizure that was witnessed in the ED.  He denies 
any
prior history of seizures or any known family history of seizure
disorder.

Regarding his right wrist, says it is currently in severe,
constant pain, pain meds helped in ED, movement exacerbates but
it is now splinted.  Denies associated numbness or tingling of
distal fingers.

Of note, he had head laceration (right forehead) that was 
sutured
in the ED.

ROS: Reports chronic insomnia, takes trazodone nightly (for the
past ___ years).  10 systems reviewed and negative except as noted
in HPI above. 

 
Past Medical History:
-IV heroin use since age ___ (with period of sobriety from
___
  --complicated by endocarditis ___, ___ @ ___, 
he
did not have any additional details

PSHx: denies any chest, cardiac or abdominal surgeries in the
past

 
Social History:
___
Family History:
denies family hx of seizure d/o

 
Physical Exam:
VS: reviewed
___ ___ Temp: 98.6 PO BP: 121/65 HR: 89 RR: 18 O2 sat: 98%
O2 delivery: RA 
Gen: NAD but modestly disheveled
Head: small, sutured laceration on right forehead
HEENT: EOMI, anicteric, no resting nystagmus, MMM, tongue is
swollen on the right with evidence of tongue-biting injury on
dorsal aspect of right anterolateral tongue without active
bleeding or any evidence of purulence/infection
Neck: no LAD
Chest: CTAB, normal WOB
Cardiovasc: RR, no m/r/g, 2+ DP and radial pulses, no stigmata 
of
endocarditis, no peripheral edema
Abd: S, NT, ND, BS+
GU: no CVA tenderness to percussion
MSK: grossly normal strength in LUE, b/l LEs; RUE in wrist 
splint
w/ normal appearing elbow 
Skin: track marks on left hand
Neuro: awake, alert, oriented x4, clear speech, tongue is
midline, no tremor, no asterixis
Psych: calm, cooperating

 
Pertinent Results:
___ 07:30AM BLOOD WBC-9.3 RBC-4.49* Hgb-13.6* Hct-41.4 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.7 RDWSD-46.9* Plt ___
___ 07:30AM BLOOD Neuts-58.7 ___ Monos-7.8 Eos-1.2 
Baso-0.5 Im ___ AbsNeut-5.45 AbsLymp-2.93 AbsMono-0.72 
AbsEos-0.11 AbsBaso-0.05
___ 07:30AM BLOOD ___ PTT-31.7 ___
___ 07:30AM BLOOD Glucose-84 UreaN-12 Creat-0.7 Na-144 
K-4.2 Cl-107 HCO3-24 AnGap-13
___ 07:30AM BLOOD ALT-133* AST-113* AlkPhos-84 TotBili-0.8
___ 07:30AM BLOOD Albumin-3.8 Calcium-8.9 Phos-3.4 Mg-2.3
___ 10:30AM BLOOD TSH-0.36
___ 11:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:30AM BLOOD HCV Ab-POS*

MRI BRAIN:
FINDINGS:  
  
There is no evidence of hemorrhage, edema, midline shift or 
infarction.   The 
ventricles and sulci are normal in caliber and configuration.  
There is no 
abnormal enhancement after contrast administration. 
  
 The major intracranial vascular flow voids are maintained.  
There is evidence 
of a probable arachnoid cyst (0.8 cm AP oblique, 1.0 cm TV, 3.8 
cm SI oblique) 
abutting the left lateral aspect of the left cerebellar 
hemisphere causing 
mild mass effect (best appreciated on coronal series 10), 
probably stable 
since cervical spine MRI ___, partially seen on prior 
exam.  There is 
minimal mucosal thickening of the right maxillary sinus.  The 
mastoid air 
cells and orbits are normal. 
  
Bilateral hippocampal formations and mammillary bodies are 
preserved in signal 
and configuration. There is no disproportionate medial temporal 
atrophy. There 
is no focal lobar encephalomalacia. There are no focal cortical 
dysplasias or 
gray matter heterotopia noted. 
  
There is evidence of a small right frontal subgaleal hematoma. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. Small posterior fossa arachnoid cyst, probably stable. 
3. No evidence of an epileptogenic focus. 
4. Small right frontal subgaleal hematoma. 

FINDINGS:  
  
The lungs are well expanded and clear.  There is no focal 
consolidation.  The 
left costophrenic angle is not imaged in this study, however 
there is no large 
pleural effusion or pneumothorax.  The cardiomediastinal 
silhouette is 
unremarkable.  There is no free intraperitoneal air. 
  
IMPRESSION: 
  
  
1. No acute cardiopulmonary process. 

FINDINGS:  
  
Interval application of cast about the wrist limits assessment 
of fine osseous 
detail.  A distal radial fracture is again demonstrated.  The 
fracture is 
slightly posteriorly displaced, with the distal fragment 
posterior displaced 
by about 2 mm.  There has been significant improvement of 
displacement and 
angulation when compared to prior study.  Minimally displaced 
ulnar styloid 
fracture is also demonstrated. 
  
IMPRESSION:  
  
Improved alignment of distal radial fracture.  Minimally 
displaced ulnar 
styloid fracture. 

FINDINGS:  
  
There is no evidence of fracture, infarction,hemorrhage,edema,or 
mass.  The 
ventricles and sulci are normal in size and configuration. 
  
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle 
ear cavities are clear.  The visualized portion of the orbits 
are 
unremarkable. 
  
IMPRESSION:  
  
Normal study. 

FINDINGS:  
  
Alignment is normal. No fractures are identified.There is no 
prevertebral soft 
tissue swelling.The 8 mm sclerotic focus within C3 vertebral 
body likely 
represents a bone island.  There is no evidence of infection or 
neoplasm. 
Axial images at C2-3 appear normal. 
At C3-4, intervertebral osteophytes and a tiny disc protrusion 
encroach on the 
spinal canal but do not contact the spinal cord.  Facet and 
uncovertebral 
osteophytes mildly narrow the left neural foramen. 
At C4-5, a minimal disc protrusion in the midline slightly 
encroaches on the 
spinal canal.  Uncovertebral and facet osteophytes produce mild 
left neural 
foraminal narrowing. 
At C5-6, intervertebral osteophytes and mild bulging of the disc 
slightly 
flatten the anterior surface of the spinal cord.  The neural 
foramina appear 
normal. 
At C6-7 and C7-T1 as well as the included portions of the upper 
thoracic spine 
there is no evidence of spinal canal or neural foraminal 
compromise. 
  
IMPRESSION: 
  
  
1. No evidence of fracture or subluxation. 
2. Mild changes of degenerative disc disease. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with active IV heroin use who p/w 
right wrist fracture from fall in setting of attempted home 
detox w/ suboxone and reports of generalized muscle spasms. ED 
course was complicated by generalized tonic-clonic seizure. 
Admitted for further evaluation.

# Seizure
Isolated incident possibly related to drug use and withdrawal.  
MRI negative.  Exam re-assuring.  He left the hospital before we 
could consider EEG but in discussion with neurology we felt it 
was ok to have this as an outpatient.  FOllow up was arranged 
and strongly encouraged.  He was counseled on risks for seizure 
and to not drive or be in water alone.

# Muscle spasms/contortions
# Fall w/o loss of consciousness
- suspect due to acute opioid withdrawal precipitated by 
patient's self-administration of suboxone.  CK minimally 
elevated

# IV heroin use & dependence: he said he wants to get clean.  
___ RN met with patient and he was treated supportively.  
He chose to leave the hospital before we could fully help him 
with this issue

# HEPATITIS
# HCV: 
mild, hepatocellular, without evidence of synthetic liver 
dysfunction or hepatic encephalopathy.  HCV +.  It is unclear if 
he knows about his status.  He left the hospital before this 
could be reviewed with the patient.  We would recommend HIV 
testing as well.

# Right distal radius fracture: 
s/p closed reduction in ED by Hand surgery team
- ___
- keep R hand elevated and encourage finger ROM
- Hand clinic f/u after discharge
- Given a limited course of Naproxen for pain

# Right forehead laceration
- sutured in ED
- if has progressive alteration in mental status, would obtain 
repeat CT head to evaluate for evidence of TBI

Patient found smoking in room with friends trying to distract
nursing.  On evaluation he is eager to leave.  I expressed my
overall concern and offered to have him remain hospitalized for
further addiction support, which he declined.

I reviewed with neurology and they felt he was safe to ___ with
scheduled neuro follow up and outpatient EEG.

I explained in detail my strong recommendation to NOT drive or 
be
in water alone for the next 6 months and until he sees 
neurology.
He expressed understanding.

I explained my strong recommendation to call the hand surgery
clinic for follow up in 1 week.  For pain I will give a limited
course of Naproxen.

I gave his friend the number for ___ clinic and encourage he 
find
a new PCP.

The patient left the hospital before I could review his 
Hepatitis
C results.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS 
2. Naproxen 500 mg PO Q8H:PRN pain or headache 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q8H:PRN pain or headache 
RX *naproxen 500 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 
2.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right wrist fracture
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a fall and wrist fracture.  This was 
splinted.  Please keep your arm elevated and move you fingers 
around to stay active.

You also had a seizure in the emergency room.  MRI was normal.  
We strongly recommend that you follow up as scheduled with the 
neurologist for further evaluation.  As we discussed do NOT 
drive or swim/bath unattended for the next  months
 
Followup Instructions:
___